US09056865B2
Step 5: 3-chloro-6-[4-(vinylsulfonyl)piperazin-1-yl]-2,2′-bipyridine
To a solution of 3-chloro-6-(piperazin-1-yl)-2,2′-bipyridine (197 mg, 0.717 mmol) in CH2Cl2 (7 mL) was added methanesulfonylchloride (0.0820 mL, 0.789 mmol) followed by triethylamine (0.110 mL, 0.789 mmol) and stirred at RT for 2 h. The reaction mixture was diluted with H2O (30 mL) and extracted with dichloromethane (2×30 mL), dried over sodium sulfate, and concentrated under reduced pressure. The crude mixture was purified by column chromatography (10-50% ethyl acetate/heptane) and obtained the title compound as a white solid (68 mg, 26% yield). LCMS (M+H)+: 365.0.

reactant | 3-chloro-6-(piperazin-1-yl)-2,2′-bipyridine | 0.717 mmol, 197 mg | ClC=1C(=NC(=CC1)N1CCNCC1)C1=NC=CC=C1 | C14H15ClN4
reactant | methanesulfonylchloride | 0.789 mmol, 0.0820 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.789 mmol, 0.110 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 30 mL | O | H2O
product | 3-chloro-6-[4-(vinylsulfonyl)piperazin-1-yl]-2,2′-bipyridine | 68 mg, 26% yield | ClC=1C(=NC(=CC1)N1CCN(CC1)S(=O)(=O)C=C)C1=NC=CC=C1 | C16H17ClN4O2S
